US07320992B2
2-Bromomethyl-6-hydroxy-benzoic acid ethyl ester (2.005 g), and 4-t-butylaniline (1.616 g) were put into 4 microwave reaction tubes along with 4.2 mL of iPrOH in each tube. The tubes were subjected to 170° C., 10 min of microwave. The resulting precipitate was collected via filtration and washed with iPrOH to obtain 2-(4-t-butyl-phenyl)-7-hydroxy-2,3-dihydro-isoindol-1-one as a white solid.

reactant | 2-Bromomethyl-6-hydroxy-benzoic acid ethyl ester | 2.005 g | C(C)OC(C1=C(C=CC=C1O)CBr)=O | C10H11BrO3
reactant | 4-t-butylaniline | 1.616 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | iPrOH | 4.2 mL | CC(C)O | C3H8O
product | 2-(4-t-butyl-phenyl)-7-hydroxy-2,3-dihydro-isoindol-1-one | C(C)(C)(C)C1=CC=C(C=C1)N1C(C2=C(C=CC=C2C1)O)=O | C18H19NO2
